US09079853B2
3-hydroxy-5-methyl-1-phenethyl-3-(pyridin-2-ylmethyl)indolin-2-one
This compound was prepared in an analogous manner to 3-((3-bromopyridin-2-yl)methyl)-3-hydroxy-1-isopentyl-5-methylindolin-2-one using 5-methyl-1-phenethylindoline-2,3-dione and 2-methylpyridine (purchased from Fisher Scientific). 1H-NMR δ 8.6 (d, 1H), 7.65 (m, 1H), 7.27 (m, 6H), 7.05 (d, 1H), 6.98 (d, 1H), 6.71 (m, 2H), 4.6 (bs, OH), 3.5 (m, 1H), 3.8 (m, 1H), 3.1 (m, 2H), 2.95 (m, 2H), 2.21 (s, 3H). Calculated mass for C23H22N2O2, 358.17. Observed 359.1 (M+1).

reactant | 3-((3-bromopyridin-2-yl)methyl)-3-hydroxy-1-isopentyl-5-methylindolin-2-one | BrC=1C(=NC=CC1)CC1(C(N(C2=CC=C(C=C12)C)CCC(C)C)=O)O | C20H23BrN2O2
reactant | 5-methyl-1-phenethylindoline-2,3-dione | CC=1C=C2C(C(N(C2=CC1)CCC1=CC=CC=C1)=O)=O | C17H15NO2
reactant | 2-methylpyridine | CC1=NC=CC=C1 | C6H7N
product | 3-hydroxy-5-methyl-1-phenethyl-3-(pyridin-2-ylmethyl)indolin-2-one | OC1(C(N(C2=CC=C(C=C12)C)CCC1=CC=CC=C1)=O)CC1=NC=CC=C1 | C23H22N2O2
